US04925591
In the same manner as described in Referential Example 15, 4-hydroxy-3-chlorobenzoic acid was reacted with n-dodecyl bromide in an aqueous solution of sodium hydroxide to obtain 4-dodecyloxy-3-chlorobenzoic acid. Then, thionyl chloride was added to 2 g of the so-obtained compound, reaction was carried out under reflux for 3 hours, and unreacted thionyl chloride was removed by distillation, whereby 4-dodecyloxy-3-chlorobenzoic acid chloride was quantitatively obtained. The so-obtained compound was diluted with 50 ml of tetrahydrofuran, and 1.7 g of p-benzyloxyphenol and 1.0 g of triethylamine were added to the dilution and reaction was carried out at room temperature with stirring overnight. Precipitated triethylamine hydrochloride was removed by filtration, and the filtrate was concentrated and purified by the silica gel column chromatography to obtain 2.1 g of 4-benzyloxyphenyl 4-dodecyloxy-3-chlorobenzoate. The so-obtained compound was catalytically reduced under a hydrogen pressure of 1 kg/cm2 in the pressure of Pd/C as the catalyst according to customary procedures to obtain 1.8 g of (4-hydroxyphenyl) 4 -dodecyloxy-3-chlorobenzoate.

reactant | 4-hydroxy-3-chlorobenzoic acid | OC1=C(C=C(C(=O)O)C=C1)Cl | C7H5ClO3
reactant | n-dodecyl bromide | C(CCCCCCCCCCC)Br | C12H25Br
reactant | sodium hydroxide | [OH-].[Na+]
product | 4-dodecyloxy-3-chlorobenzoic acid | C(CCCCCCCCCCC)OC1=C(C=C(C(=O)O)C=C1)Cl | C19H29ClO3
